US06894061B2
3-Chloro-5-[(2,4-dimethoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridin
The title compound was prepared from N-[1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-2,4-dimethoxybenzenesulfonamide (470 mg, 1.04 mmol), anhydrous N,N-dimethylformamide (2 mL), and potassium carbonate (287 mg, 2.0 mmol) according to the procedure and in the same manner as described in Example 105, step d resulting in the isolation of 447 mg (100%) of a white solid that was used without further purification;

reactant | N-[1-(4′-chloro-2′-fluoro-1,1′-biphenyl-2-yl)ethyl]-2,4-dimethoxybenzenesulfonamide | 1.04 mmol, 470 mg | ClC1=CC(=C(C=C1)C1=C(C=CC=C1)C(C)NS(=O)(=O)C1=C(C=C(C=C1)OC)OC)F | C22H21ClFNO4S
reactant | potassium carbonate | 2.0 mmol, 287 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-Chloro-5-[(2,4-dimethoxyphenyl)sulfonyl]-6-methyl-5,6-dihydrophenanthridin | ClC=1C=CC=2C3=CC=CC=C3C(N(C2C1)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)C | C22H20ClNO4S
